US05223498
Reaction of 1-dimethylcarbamoylpiperidine (3.7 g) in benzene (25 ml) with 4-(2-morpholinophenyl)morpholine (3.5 g) in the presence of phosphorus oxychloride for 35 hours at 80°-85° C. gave N,N-dimethyl-N'-(2-morpholinophenyl)piperidine-1-carboxamidine (m.p. 88°-90° C.) which was recrystallised from petroleum ether (b.p. 40°-60° C.)

reactant | 1-dimethylcarbamoylpiperidine | 3.7 g | CN(C(=O)N1CCCCC1)C | C8H16N2O
reactant | 4-(2-morpholinophenyl)morpholine | 3.5 g | O1CCN(CC1)C1=C(C=CC=C1)N1CCOCC1 | C14H20N2O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | N,N-dimethyl-N'-(2-morpholinophenyl)piperidine-1-carboxamidine | CN(C(=NC1=C(C=CC=C1)N1CCOCC1)N1CCCCC1)C | C18H28N4O
